US08314250B2
Sodium cyanoborohydride (470 mg, 7.48 mmol) was added to a magnetically stirred solution of [3-amino-5-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-methanol (1.0 g, 3.74 mmol) in methanol (30 mL). The reaction vessel was capped with a septum and pierced with a needle. In a separate flask, parafomaldehyde (449 mg, 15.0 mmol) was heated with heat gun and the gas cannulated into the reaction vessel with a stream of nitrogen. After all the paraformaldehyde was added, a solution of zinc chloride (510 mg, 3.74 mmol) in methanol (8 mL) was added dropwise. Gas evolution was observed. After the addition was complete, TLC indicated that the starting material had been consumed. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with 1% aqueous ammonium hydroxide and then with brine. The solution was dried over sodium sulfate, filtered, concentrated, and purified by silica gel chromatography, eluting with 10-60% ethyl acetate/hexanes to give [3-(tert-butyl-dimethyl-silanyloxymethyl)-5-dimethylamino-phenyl]-methanol (906 mg, 82% yield) as a viscous oil.

reactant | Sodium cyanoborohydride | 7.48 mmol, 470 mg | C(#N)[BH3-].[Na+]
reactant | [3-amino-5-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-methanol | 3.74 mmol, 1.0 g | NC=1C=C(C=C(C1)C(O[SiH2]C(C)(C)C)(C)C)CO | C14H25NO2Si
reactant | paraformaldehyde | C=O | CH2O
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 8 mL | CO | CH4O
catalyst | zinc chloride | 3.74 mmol, 510 mg | [Cl-].[Zn+2].[Cl-]
product | [3-(tert-butyl-dimethyl-silanyloxymethyl)-5-dimethylamino-phenyl]-methanol | 906 mg, 82% yield | C(C)(C)(C)[SiH2]OC(C=1C=C(C=C(C1)N(C)C)CO)(C)C | C16H29NO2Si
